US04618697
A mixture of 2-bromo-1,1-dimethoxy-1-(4-methoxyphenyl)-propane (2.9 g; 10 mmol), N,N-dimethylformamide (13 g), urea (6 g) and calcium carbonate (1.2 g; 12 mmol) is heated at 95° C. under stirring for 32 h. The reaction mixture is worked up as described in example 1a to give 2-(4-methoxyphenyl)-propionic acid (1.7 g; 9.2 mmol; yield 92%), m.p. 56°-57° C.

reactant | 2-bromo-1,1-dimethoxy-1-(4-methoxyphenyl)-propane | 10 mmol, 2.9 g | BrC(C(C1=CC=C(C=C1)OC)(OC)OC)C | C12H17BrO3
reactant | urea | 6 g | NC(=O)N | CH4N2O
reactant | calcium carbonate | 12 mmol, 1.2 g | C([O-])([O-])=O.[Ca+2]
solvent | N,N-dimethylformamide | 13 g | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenyl)-propionic acid | 9.2 mmol, 1.7 g, yield 92% | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
